US04532255
To a solution of 2.3 g of m-methylbenzoic acid in 30 ml of anhydrous pyridine, was added 4.4 g of DCC. To the stirred mixture, while being cooled in ice, was added 5 g of 6-amidino-2-naphthol methanesulfonate. After stirring for 24 hours, the insolubles were removed by filtration and ethylether was added to the filtrate. On separation of the resulting oily substance by decantation, it crystallized. The crystals were recrystallized from a methanol-ether mixture to obtain 2.2 g of 6-amidino-2-naphthyl 3-methylbenzoate methanesulfonate.

reactant | m-methylbenzoic acid | 2.3 g | CC=1C=C(C(=O)O)C=CC1 | C8H8O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 3-methylbenzoate methanesulfonate | 2.2 g | CS(=O)(=O)O.CC=1C=C(C(=O)OC2=CC3=CC=C(C=C3C=C2)C(N)=N)C=CC1 | InChI=1S/C19H16N2O2.CH4O3S/c1-12-3-2-4-16(9-12)19(22)23-17-8-7-13-10-15(18(20)21)6-5-14(13)11-17;1-5(2,3)4/h2-11H,1H3,(H3,20,21);1H3,(H,2,3,4)
